US06001862
N-(4-Trifluoromethylbenzyl)-5-(2,4-dioxothiazolidin-5-yl)methyl-2-methoxybenzamide
N-(4-Trifluoromethylbenzyl)-5-(2,4-dioxothiazolidin-5-ylidene)methyl-2-methoxybenzamide (500 mg) was suspended into ethanol (70 ml) and hydrogenated with 10% palladium/carbon (500 mg) at room temperature under a hydrogen pressure of 3.0 kg/cm2. The reaction liquor was filtered and concentrated and the residue was purified by means of silica gel column chromatography (developing solvent; methylene chloride:methanol=50:1) to obtain 403 mg (80%) of aimed compound as crystals. Further, these were recrystallized from ethyl acetate to obtain purified aimed compound as colorless powdery crystals. Melting point 176.0~177.5° C.

reactant | N-(4-Trifluoromethylbenzyl)-5-(2,4-dioxothiazolidin-5-ylidene)methyl-2-methoxybenzamide | 500 mg | FC(C1=CC=C(CNC(C2=C(C=CC(=C2)C=C2C(NC(S2)=O)=O)OC)=O)C=C1)(F)F | C20H15F3N2O4S
catalyst | palladium/carbon | 500 mg | [Pd] | Pd
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | N-(4-Trifluoromethylbenzyl)-5-(2,4-dioxothiazolidin-5-yl)methyl-2-methoxybenzamide | 403 mg, 80% | FC(C1=CC=C(CNC(C2=C(C=CC(=C2)CC2C(NC(S2)=O)=O)OC)=O)C=C1)(F)F | C20H17F3N2O4S
